US07276518B2
450 mg C-(1H-indol-3-yl)-methylamine were partly dissolved in dry 1,2-dichloroethane (10 ml) under argon. After addition of 609 mg 4-dimethylamino-4-phenylcyclohexanone, glacial acetic acid (5.6 mmol), sodium sulfate (2 g) and sodium triacetoxyborohydride (770 mg), the suspension was stirred for five days at room temperature. For working up, water (20 ml) was added to the reaction mixture. The organic phase was separated off and the aqueous phase was washed twice with ether (5 ml) and then rendered strongly alkaline with sodium hydroxide solution. It was extracted with ether (2×5 ml) and ethyl acetate (4×10 ml), the combined extracts were dried over sodium sulfate and filtered and the filtrate was concentrated. The crude product obtained was chromatographed over silica gel with methanol/triethylamine (100:1). 52 mg N,N-dimethyl-N′-(1-methyl-1H-indol-3-ylmethyl)-1-phenyl-cyclohexane-1,4-diamine were obtained as a cis/trans mixture.

reactant | C-(1H-indol-3-yl)-methylamine | 450 mg | N1C=C(C2=CC=CC=C12)CN | C9H10N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 609 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 5.6 mmol | C(C)(=O)O | C2H4O2
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 770 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | 20 ml | O | H2O
product | N,N-dimethyl-N′-(1-methyl-1H-indol-3-ylmethyl)-1-phenyl-cyclohexane-1,4-diamine | 52 mg | CN(C1(CCC(CC1)NCC1=CN(C2=CC=CC=C12)C)C1=CC=CC=C1)C | C24H31N3
